US04717730
A mixture of 4-(4,5,6,7-tetrahydro-1H-benzimidazol-1-yl)-β-methyl-γ-oxobenzenebutanoic acid (7.3 g, 0.023 mol), 80% hydrazine hydrate (1.75 g, 0.028 mol) in ethanol (75 ml) is heated under reflux for six hours. The solution is concentrated to a small volume and filtered. The residue is washed with 2-propanol, followed by ether to give 3.1 g of 4,5-dihydro-6-[4-(4,5,6,7-tetrahydro-1H-benzimidazol-1-yl)phenyl]-5-methyl-3(2H)-pyridazinone, mp 199°-200° C.

reactant | 4-(4,5,6,7-tetrahydro-1H-benzimidazol-1-yl)-β-methyl-γ-oxobenzenebutanoic acid | 0.023 mol, 7.3 g | N1(C=NC2=C1CCCC2)C2=CC=C(C=C2)C(C(CC(=O)O)C)=O | C18H20N2O3
reactant | hydrazine hydrate | 0.028 mol, 1.75 g | O.NN
solvent | ethanol | 75 ml | C(C)O | C2H6O
product | 4,5-dihydro-6-[4-(4,5,6,7-tetrahydro-1H-benzimidazol-1-yl)phenyl]-5-methyl-3(2H)-pyridazinone | 3.1 g | N1(C=NC2=C1CCCC2)C2=CC=C(C=C2)C=2C(CC(NN2)=O)C | C18H20N4O
